US06933311B2
N-(4-isopropylbenzyl)-N′-(3-methyl-5-isoquinolinyl)urea
4-Isopropylbenzylamine (748 mg, 5.02 mmol) in toluene (20 mL) was refluxed with 20% w/v phosgene solution in toluene (3 mL) overnight. The mixture was cooled to room temperature and concentrated in vacuo. The residue was taken up in toluene (20 mL) and was treated with DIEA (4 mL) and 5-amino-3-methylisoquinoline (500 mg, 3.16 mmol). The reaction mixture was stirred was at 80° C. for 6 hours. After cooling to room temperature, a precipitate formed which was collected by filtration and purified by silica gel chromatography (98:2 CH2Cl2:CH3OH) to provide the title compound. The corresponding hydrochloride salt was formed by treatment with methanolic HCl. 1H NMR (300 MHz, DMSO-d6) δ 9.16 (s, 1H), 8.60 (s, 1H), 8.24 (dd, 1H, J=7.5 Hz, 1.0 Hz), 7.74 (s, 1H), 7.68 (d, 1H, J=8.2 Hz), 7.50 (t, 1H, J=8.0 Hz), 7.22-7.30 (m, 4H), 6.99 (t, 1H, 5.6 Hz), 4.32 (d, 2H, J=7.8 Hz), 2.88 (m, 1H), 2.64 (s, 3H), 1.20 (d, 6H, J=6.8 Hz); MS (ESI+) m/z 334 (M+H).

reactant | 4-Isopropylbenzylamine | 5.02 mmol, 748 mg | C(C)(C)C1=CC=C(CN)C=C1 | C10H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | DIEA | 4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-amino-3-methylisoquinoline | 3.16 mmol, 500 mg | NC1=C2C=C(N=CC2=CC=C1)C | C10H10N2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-isopropylbenzyl)-N′-(3-methyl-5-isoquinolinyl)urea | C(C)(C)C1=CC=C(CNC(=O)NC2=C3C=C(N=CC3=CC=C2)C)C=C1 | C21H23N3O
